US06686384B2
(1H-Benzimidazol-2-yl)-o-tolylamine hydrochloride
2-Methylaniline (0.5 g) and 2-chlorobenzimidazole (0.71 g) were mixed in a flask and then kept at 250° C. for 2 h. After cooling, the residue was dissolved out of the flask at boiling heat using 1 N HCl, the insoluble material was filtered off with suction, and the filtrate was evaporated. The residue was purified by means of preparative HPLC on RP-18 using acetonitrile/water (0.05% TFA). The clean fractions were combined, the acetonitrile was stripped off, the residue was rendered alkaline using potassium carbonate solution, extracted three times with EA, and the combined phases were then dried, filtered, and concentrated. The residue was taken up using 2 N HCl and the solution was freeze-dried. 110 mg of the title compound were obtained.

reactant | 2-Methylaniline | 0.5 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | 2-chlorobenzimidazole | 0.71 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | HCl | 1 N | Cl | ClH
product | (1H-Benzimidazol-2-yl)-o-tolylamine hydrochloride | 110 mg | Cl.N1C(=NC2=C1C=CC=C2)NC2=C(C=CC=C2)C | InChI=1S/C14H13N3.ClH/c1-10-6-2-3-7-11(10)15-14-16-12-8-4-5-9-13(12)17-14;/h2-9H,1H3,(H2,15,16,17);1H
